US06156884
Preparation of Methyl 4-[(N-{[4-(methoxycarbonyl)-3-(phenylmethoxy)phenyl]methyl}-6-[(phenylmethoxy)carbonylamino]hexanoylamino)methyl]-2-(phenylmethoxy)benzoate
Dissolved N-Cbz-6-aminohexanoic acid (784 mg, 2.96 mmole) into 10 mL of N,N-dimethylformamide and cooled to 0° C. Added triethylamine (1.65 mL, 11.8 mmole), stirred for 10 minutes, then added isobutylchloroformate (385 uL, 2.68 mmole). Stirred for 45 minutes and then added the crude methyl 4-[({[4-(methoxycarbonyl)-3-(phenylmethoxy)phenyl]methyl}-amino)-methyl]-2-(phenylmethoxy)benzoate hydrochloride from the step above (830 mg, 1.48 mmole). Let warm to room temperature and stirred for 3 hours. Diluted the reaction mixture with 1 N HCl and extracted with ethyl acetate. Dried the ethyl acetate layers with brine and anhydrous magnesium sulfate. Filtered, removed solvents in vacuo, and chromatographed on silica gel. Collected 870 mg (76% yield) of product.

reactant | N-Cbz-6-aminohexanoic acid | 2.96 mmole, 784 mg | C(=O)(OCC1=CC=CC=C1)NCCCCCC(=O)O | C14H19NO4
reactant | triethylamine | 11.8 mmole, 1.65 mL | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 2.68 mmole, 385 uL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methyl 4-[({[4-(methoxycarbonyl)-3-(phenylmethoxy)phenyl]methyl}-amino)-methyl]-2-(phenylmethoxy)benzoate hydrochloride | Cl.COC(=O)C1=C(C=C(C=C1)CNCC1=CC(=C(C(=O)OC)C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1
solvent | HCl | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Methyl 4-[(N-{[4-(methoxycarbonyl)-3-(phenylmethoxy)phenyl]methyl}-6-[(phenylmethoxy)carbonylamino]hexanoylamino)methyl]-2-(phenylmethoxy)benzoate | 870 mg, 76% yield | COC(=O)C1=C(C=C(C=C1)CN(C(CCCCCNC(=O)OCC1=CC=CC=C1)=O)CC1=CC(=C(C(=O)OC)C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C46H48N2O9
